US08975254B2
a) 5-Acetylisoxazole-3-carboxylic acid
Ethyl 5-acetylisoxazole-3-carboxylate (300 mg, 1.638 mmol) was dissolved in THF/methanol mixture (9:1) and 1M lithium hydroxide (3.28 ml, 3.28 mmol) was added slowly. The reaction mixture was stirred at RT for 40 min, diluted with water and pH was adjusted to 3. The reaction mixture was extracted three times with ethyl acetate. Ethyl acetate phases were combined, washed with brine, dried and evaporated to dryness to yield the title compound (29.9%). m/z [155.1+1].

reactant | Ethyl 5-acetylisoxazole-3-carboxylate | 1.638 mmol, 300 mg | C(C)(=O)C1=CC(=NO1)C(=O)OCC | C8H9NO4
reactant | lithium hydroxide | 3.28 mmol, 1M, 3.28 ml | [OH-].[Li+]
solvent | THF methanol | C1CCOC1.CO
solvent | water | O | H2O
product | 5-Acetylisoxazole-3-carboxylic acid | 29.9% | C(C)(=O)C1=CC(=NO1)C(=O)O | C6H5NO4
